US04673746
The Friedel-Crafts procedure of Example 24a is repeated with 31.55 g of p-fluorobenzoyl chloride, 32 g of 2,3-dichloroanisole and 35.22 g of AlCl3 combined in 1,2-dichloroethane and reacted. The resultant crude product is triturated with warm hexane, cooled and filtered to yield 2,3-dichloro-4-methoxy-4'-fluorobenzophenone.

reactant | p-fluorobenzoyl chloride | 31.55 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 2,3-dichloroanisole | 32 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | AlCl3 | 35.22 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2,3-dichloro-4-methoxy-4'-fluorobenzophenone | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=CC(=C1Cl)OC | C14H9Cl2FO2
